US06589967B1
Production of 1-(4,6-Dimethyl-2-pyridinyl)ethanone O-[(2-hydroxy-3-methoxyphenyl)methyl] Oxime (Compound No. 25)
1.77 g (5.14 mmol) of 1-(4,6-dimethyl-2-pyridinyl)ethanone O-[(2-methoxymethoxy-3-methoxyphenyl)methyl] oxime was dissolved in 20 ml of tetrahydrofuran, and the resultant solution was added with 10 ml of 1N-hydrochloric acid. The obtained mixture was then heated to reach the reflux temperature and further stirred for an hour. Then, the mixture was cooled to a room temperature, neutralized with aqueous solution of 1N-sodium hydroxide and subjected to an extraction with diethyl ether. The resultant nonaqueous layer was washed with saturated saline solution, dried with anhydrous magnesium sulfate and then condensed under reduced pressure to thereby obtain the target compound in an amount of 1.6 g.

reactant | 1-(4,6-dimethyl-2-pyridinyl)ethanone O-[(2-methoxymethoxy-3-methoxyphenyl)methyl] oxime | 5.14 mmol, 1.77 g | COCOC1=C(C=CC=C1OC)CON=C(C)C1=NC(=CC(=C1)C)C | C19H24N2O4
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-(4,6-Dimethyl-2-pyridinyl)ethanone O-[(2-hydroxy-3-methoxyphenyl)methyl] Oxime | OC1=C(C=CC=C1OC)CON=C(C)C1=NC(=CC(=C1)C)C | C17H20N2O3
